US05242945
To a stirring suspension of 140 mg (4.6 mmol) of 80% NaH in 5 mL of tetrahydrofuran is added 1.07 g (4.6 mmol) of (Z)-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-pentene-1,2-diol at 0° C. and the reaction mixture is stirred for 1 hour. Next, 1.0 g (4.6 mmol) of geranyl bromide is added and the reaction is stirred overnight at room temperature. The reaction mixture is poured into water and extracted with three 50 mL portions of ethyl acetate. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording 1.7 g (100%) of (E)-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-[(3,7-dimethyl-2,6-octadienyl)oxy]-2-pentanol. Next, 1.6 g (4.3 mmol) of (E)-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-[(3,7-dimethyl-2,6-octadienyl)oxy]-2-pentanol and 800 μL (5.73 mmol) of triethylamine in 20 mL of methylene chloride are added at 0° C. to a stirring solution of 13.3 mL of 20% phosgene in toluene and the reaction mixture is stirred for 1 hour. The reaction mixture is concentrated in vacuo and redissolved in 20 mL of tetrahydrofuran. Next, 1.3 g (4.6 mmol) of oleyl amine is added and the reaction mixture is stirred for 2 hours. The reaction mixture is poured into water and extracted with three 50 mL portions of ether. The organic layers are dried over MgSO4 and concentrated in vacuo affording crude product. Pure material is obtained by flash chromatography with 10% ethyl acetate/hexane as eluant affording 1.67 g (67%) of (Z)-9-octadecenylcarbamic acid (E)-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-[[(3,7-dimethyl-2,6-octadienyl)oxy]methyl]butyl ester. Next, 5 mL of 1.0M tetrabutylammonium fluoride in tetrahydrofuran is added to a stirring solution of 1.67 g (2.5 mmol) of (Z)-9-octadecenylcarbamic acid (E)-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]- 1-[[(3,7-dimethyl-2,6-octadienyl)oxy]methyl]butyl ester in 5 mL of tetrahydrofuran and the reaction mixture is stirred overnight. The reaction mixture is poured into water and extracted with three 50 mL portions of ether. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording crude product. Pure material is obtained by flash chromatography with 10% ethyl acetate/hexane as eluant affording 722 mg (54%) of (Z)-9-octadecenylcarbamic acid (E)-1-[[(3,7-dimethyl-2,6-octadienyl)oxy]methyl]-4-hydroxybutyl ester. Next, 2 mL of 2.0M Jones reagent is added at 0° C. to a solution of 722 mg (1.33 mmol) of (Z)-9-octadecenylcarbamic acid (E)-1-[[(3,7-dimethyl-2,6-octadienyl)oxy]methyl]-4-hydroxybutyl ester in 12 mL of acetone and the reaction is stirred for 3 hours. The reaction is poured into water and extracted with three 50 mL portions of ether. The combined organic layers are dried over MgSO4 and concentrated in vacuo affording crude product. Pure material was obtained by flash chromatography with 35% ethyl acetate/hexane as eluant affording 226 mg (30%) of 5-[((E)-3,7-dimethyl-2,6-octadienyl)oxy]-4-[[((Z)-9-octadecenylamino) carbonyl]oxy]pentanoic acid.

reactant | NaH | 4.6 mmol, 140 mg | [H-].[Na+]
reactant | (Z)-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-pentene-1,2-diol | 4.6 mmol, 1.07 g | CC(C)(C)[Si](OCCC/C(=C/O)/O)(C)C | C11H24O3Si
reactant | geranyl bromide | 4.6 mmol, 1.0 g | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (E)-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-[(3,7-dimethyl-2,6-octadienyl)oxy]-2-pentanol | 1.7 g, 100% | CC(C)(C)[Si](OCCCC(COC\C=C(\CCC=C(C)C)/C)O)(C)C | C21H42O3Si
